US06245746B1
(A) Nα-Boc-Nδ-Fmoc-Nα-Methylornithine Benzylamide
This compound is prepared using Procedure C. Nα-Boc-Nδ-Fmoc-Nα-methylornithine (100 mg) was coupled with benzylamine to afford titled compound (50 mg) as a glassy solid: 1H NMR (400 MHz, CDCl3) δ1.42 (s, 9H), 1.52 (m, 2H), 1.70 (m, 2H), 2.80 (s, 3H), 3.26 (m, 2H), 4.18 (m, 1H), 4.22 (m, 1H), 4.41 (m, 2H), 4.61 (m, 2H), 7.31 (m, 7H), 7.43 (m, 2H), 7.63 (m, 2H), and 7.81 (m, 2H).

reactant | Nα-Boc-Nδ-Fmoc-Nα-methylornithine | 100 mg | C(=O)(OC(C)(C)C)N([C@@H](CCCNC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(=O)O)C | C26H32N2O6
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | Nα-Boc-Nδ-Fmoc-Nα-Methylornithine Benzylamide | 50 mg | C(C1=CC=CC=C1)NC([C@@H](N(C)C(=O)OC(C)(C)C)CCCNC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)=O | C33H39N3O5
